US08119627B2
AMR01059 A solution of 2-(2,4-dichlorophenoxy)benzoic acid (AMR01057, 200 mg, 0.706 mmol) in dry DCM (10 mL) was stirred under nitrogen, and 4-dimethylaminopyridine (DMPA, 40 mg, 0.327 mmol), (1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDC, 406 mg, 2.12 mmol) and triethylamine (0.15 mL) were added. The resulting mixture was stirred for 30 min under nitrogen and ethyl-4-amino-1-piperidine carboxylate (122 mg, 0.706 mmol) in dry DCM (4 mL) was added. After stirring at room temperature for 12 h, the mixture was diluted with DCM, washed with HCl 1M (3×25 mL), water, saturated NaHCO3 (2×25 mL) and brine. The organic layer was dried (MgSO4), filtered and evaporated. Flash chromatography on silica gel using DCM to DCM/MeOH 9:1 gradient as eluent gave 4-[2-(2,4-dichlorophenoxy)benzoylamino]piperidine-1-carboxylic acid ethyl ester (140 mg, 45%) as a white solid. Rf: 0.62 (DCM/MeOH 9:1) 1H NMR (300 MHz, CDCl3) 11.26 (3H, t, J=7.1 Hz, CH3), 1.40 (2H, m, CH2), 1.97 (2H, m, CH2), 3.00 (2H, m, CH2), 4.03 (2H, m, CH2), 4.13 (2H, q, J=7.1 Hz, CH3CH2O), 4.19 (1H, m, CH), 6.80 (1H, dd, J=8.2, 0.9 Hz, ArH), 6.90 (1H, d, J=8.8 Hz, ArH), 7.24 (1H, dd, J=8.8, 2.5 Hz, ArH), 7.27 (1H, m, ArH), 7.36 (1H, br s, NH), 7.42 (1H, m, ArH), 7.53 (1H, d, J=2.5 Hz, ArH) and 8.19 (1H, dd, J=7.8, 1.8 Hz, ArH).

reactant | 2-(2,4-dichlorophenoxy)benzoic acid | 0.706 mmol, 200 mg | ClC1=C(OC2=C(C(=O)O)C=CC=C2)C=CC(=C1)Cl | C13H8Cl2O3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.12 mmol, 406 mg | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 0.15 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl-4-amino-1-piperidine carboxylate | 0.706 mmol, 122 mg | C(C)OC(=O)N1CCC(CC1)N | C8H16N2O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.327 mmol, 40 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | 4-[2-(2,4-dichlorophenoxy)benzoylamino]piperidine-1-carboxylic acid ethyl ester | 140 mg, 45% | C(C)OC(=O)N1CCC(CC1)NC(C1=C(C=CC=C1)OC1=C(C=C(C=C1)Cl)Cl)=O | C21H22Cl2N2O4
